US05332739
3 ml of triethylamine was added to 10 ml of an ethanol solution containing 2.5 g of 3-(4-chlorophenoxy)propyl bromide and 1.3 g of 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione, and the solution was then heated under reflux for 3 hours. Afterward, the reaction solution was concentrated to dryness, and the resultant residue was dissolved in chloroform and then washed with water. The thus obtained chloroform solution was dried and then concentrated, and the residue was recrystallized from ethanol/hexane, thereby preparing 1.96 g (yield: 86%) of 6-[4-(3-[4-chlorophenoxy]propyl)piperazin-1-yl]-1,3-dimethyl-2,4(1H,3H)-pyrimidinedione.

reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(4-chlorophenoxy)propyl bromide | 2.5 g | ClC1=CC=C(OCCCBr)C=C1 | C9H10BrClO
reactant | 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione | 1.3 g | CN1C(N(C(C=C1N1CCNCC1)=O)C)=O | C10H16N4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-[4-(3-[4-chlorophenoxy]propyl)piperazin-1-yl]-1,3-dimethyl-2,4(1H,3H)-pyrimidinedione | 1.96 g, yield: 86% | ClC1=CC=C(OCCCN2CCN(CC2)C2=CC(N(C(N2C)=O)C)=O)C=C1 | C19H25ClN4O3
